US04786309
4-(2'-Nitro-4'-chlorobenzoyl)-2,2-dimethyl-2H-pyran-3,5-(4H,6H)-dione
2-Nitro-4-chlorobenzoyl chloride (2.2 g, 10 mmol) and 2,2-dimethyl-2H-pyran-3,5-(4H,6H)-dione (1.4 g, 10 mmol) were dissolved in 150 milliliters (ml) chloride. Triethylamine (3 ml, 22 mmol) was added and the resulting solution stirred at room temperature for fifteen minutes. The solution was washed with dilute hydrochloric acid, 5% potassium carbonate and saturated sodium chloride, dried over anhydrous magnesium sulfate and concentrated under vacuum. The residue was dissolved in 10 ml acetonitrile. Triethylamine (3 ml, 22 mmol) and acetone cyanohydrin (0.2 g) were added and the mixture stirred at room temperature for 2 hours. After dilution with ether, the solution was washed with dilute hydrochloric acid and extracted with 5% potassium carbonate. The basic extract was acidified with hydrochloric acid and extracted with ether. The ether extract was washed with saturated sodium chloride, dried over anhydrous magnesium sulfate and concentrated under vacuum, yielding 1.4 g of the desired product as a viscous oil. It was identified as such by nuclear magnetic resonance spectroscopy, infrared spectroscopy and mass spectroscopy.

reactant | 2-Nitro-4-chlorobenzoyl chloride | 10 mmol, 2.2 g | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl2NO3
reactant | 2,2-dimethyl-2H-pyran-3,5-(4H,6H)-dione | 10 mmol, 1.4 g | CC1(OCC(CC1=O)=O)C | C7H10O3
reactant | Triethylamine | 22 mmol, 3 ml | C(C)N(CC)CC | C6H15N
reactant | Triethylamine | 22 mmol, 3 ml | C(C)N(CC)CC | C6H15N
reactant | acetone cyanohydrin | 0.2 g | CC(C#N)(O)C | C4H7NO
solvent | chloride | 150 milliliters | [Cl-]
product | 4-(2'-Nitro-4'-chlorobenzoyl)-2,2-dimethyl-2H-pyran-3,5-(4H,6H)-dione | 1.4 g | [N+](=O)([O-])C1=C(C(=O)C2C(C(OCC2=O)(C)C)=O)C=CC(=C1)Cl | C14H12ClNO6
